US07820707B2
2-(2-(4-(1-(2-hydroxyethylamino)ethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
To a solution of 2-aminoethanol (103 mg, 1.689 mmol) in MeOH (1.5 mL), AcOH was added until the pH reached 5. 2-(2-(4-acetyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (50 mg, 0.121 mmol) was added before the addition of (7.6 mg, 0.121 mmol) of sodium cyanoborohydride. The reaction was heated by microwave irradiation to 100° C. for 20 min. The reaction mixture was filtered before purification by preparative reverse phase HPLC. The product fractions were acidified to pH 4 before applying to a strong cation exchange cartridge (500 mg). The cartridge was washed with DCM/MeOH (1:1) before eluting the product with 2M NH3 in MeOH. The solvent was removed in vacuo to give the title compound (8.3 mg, 0.018 mmol, 15%).

reactant | 2-aminoethanol | 1.689 mmol, 103 mg | NCCO | C2H7NO
reactant | 2-(2-(4-acetyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.121 mmol, 50 mg | C(C)(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C17H17F3N4O3S
reactant | sodium cyanoborohydride | 0.121 mmol, 7.6 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
product | 2-(2-(4-(1-(2-hydroxyethylamino)ethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.018 mmol, 8.3 mg, 15% | OCCNC(C)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C19H24F3N5O3S
